* NGSPICE file created from B04_VDD05_flat.ext - technology: gf180mcuD

.subckt B04_VDD05_flat VDD GND VbiasN
X0 a_n3954_6382# a_n4434_260# GND ppolyf_u_1k r_width=2u r_length=30u
X1 a_5946_4337# a_6034_5405# VDD VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X2 GND a_2584_2555# a_2872_2555# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X3 VDD a_6034_5405# a_5946_4337# VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X4 GND GND GND GND nfet_03v3 ad=0.44p pd=2.88u as=31.24p ps=0.17192m w=1u l=1u
X5 a_2872_2967# a_1974_4337# GND GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X6 GND a_2584_2555# a_3334_4669# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X7 a_1974_4669# a_1974_4337# GND GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X8 a_3334_4669# B04_OTA_0.Vin- a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.22p ps=1.88u w=0.5u l=1u
X9 VDD VDD VDD VDD pfet_03v3 ad=0.22p pd=1.88u as=30.36p ps=0.15912m w=0.5u l=1u
X10 a_1686_4337# B04_OTA_0.Vbias0 VDD VDD pfet_03v3 ad=0.65p pd=3.02u as=1.1p ps=5.88u w=2.5u l=4u
X11 a_n6834_6382# a_n6354_260# GND ppolyf_u_1k r_width=2u r_length=30u
X12 a_n6834_6382# a_n7314_260# GND ppolyf_u_1k r_width=2u r_length=30u
X13 a_1686_4337# B04_OTA_0.Vin- a_1974_4337# VDD pfet_03v3 ad=0.22p pd=1.88u as=0.13p ps=1.02u w=0.5u l=1u
X14 GND GND GND GND nfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=4u
X15 GND GND GND GND nfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=4u
X16 a_n9714_6382# a_n9234_260# GND ppolyf_u_1k r_width=2u r_length=30u
X17 a_n9714_6382# a_n10194_260# GND ppolyf_u_1k r_width=2u r_length=30u
X18 GND GND GND GND nfet_03v3 ad=0.44p pd=2.88u as=0 ps=0 w=1u l=1u
X19 VDD VDD VDD VDD pfet_03v3 ad=1.1p pd=5.88u as=0 ps=0 w=2.5u l=4u
X20 a_1974_4337# B04_OTA_0.Vbias2 a_2872_2967# GND nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=1u
X21 a_3334_4669# a_2584_2555# GND GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X22 a_1686_4337# B04_OTA_0.Vin+ a_1974_4669# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
X23 B04_OTA_0.Vbias2 B04_OTA_bias_ratio_5_0.VbiasP VDD VDD pfet_03v3 ad=11p pd=50.88u as=11p ps=50.88u w=25u l=4u
X24 a_5946_4337# B04_OTA_0.Vbias3 B04_OTA_0.Vin- VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X25 VDD B04_OTA_0.Vbias0 a_1686_4337# VDD pfet_03v3 ad=1.1p pd=5.88u as=0.65p ps=3.02u w=2.5u l=4u
X26 a_2872_2555# a_2584_2555# GND GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X27 B04_OTA_0.Vin- B04_OTA_0.Vbias3 a_5946_4337# VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X28 a_n2994_6382# a_n3474_260# GND ppolyf_u_1k r_width=2u r_length=30u
X29 VDD VDD VDD VDD pfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=1u
X30 a_2584_2555# B04_OTA_0.Vin+ a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.22p ps=1.88u w=0.5u l=1u
X31 a_n5874_6382# a_n5394_260# GND ppolyf_u_1k r_width=2u r_length=30u
X32 a_n5874_6382# a_n6354_n2# GND ppolyf_u_1k r_width=2u r_length=30u
X33 GND GND GND GND nfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=4u
X34 a_2584_2555# B04_OTA_0.Vbias2 a_2872_2555# GND nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=1u
X35 a_1686_4337# B04_OTA_0.Vin- a_3334_4669# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
X36 a_3334_4669# B04_OTA_0.Vbias2 B04_OTA_0.Vin- GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X37 a_n4434_n2# a_n4914_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X38 B04_OTA_0.Vin- B04_OTA_0.Vbias2 a_3334_4669# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X39 a_1686_4337# B04_OTA_0.Vin- a_1974_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
X40 a_3430_n2670# B04_OTA_0.Vbias1 GND GND nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=4u
X41 a_n5394_n2# a_n4914_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X42 a_n8754_6382# a_n8274_260# GND ppolyf_u_1k r_width=2u r_length=30u
X43 GND GND GND ppolyf_u_1k r_width=2u r_length=30u
X44 a_n8754_6382# a_n9234_260# GND ppolyf_u_1k r_width=2u r_length=30u
X45 a_n3474_n2# a_n3954_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X46 a_6630_n1720# B04_OTA_0.Vbias0 VDD VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=4u
X47 a_n9234_n2# a_n9714_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X48 a_1686_4337# B04_OTA_0.Vin- a_3334_4669# VDD pfet_03v3 ad=0.22p pd=1.88u as=0.13p ps=1.02u w=0.5u l=1u
X49 a_n4434_n2# a_n3954_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X50 GND VbiasN B04_OTA_0.Vbias3 GND nfet_03v3 ad=22p pd=0.10088m as=22p ps=0.10088m w=50u l=4u
X51 a_n10194_n2# a_n10674_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X52 a_6996_4337# a_6034_5405# VDD VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X53 a_n10194_n2# a_n9714_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X54 a_n2034_6382# a_n2514_260# GND ppolyf_u_1k r_width=2u r_length=30u
X55 GND B04_OTA_0.Vbias1 a_1974_4669# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X56 VDD VDD VDD VDD pfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=1u
X57 a_n8274_n2# a_n8754_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X58 B04_OTA_0.Vin+ a_n10674_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X59 a_n2994_6382# a_n2514_260# GND ppolyf_u_1k r_width=2u r_length=30u
X60 GND B04_OTA_0.Vbias1 a_3334_4669# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X61 a_n3474_n2# a_n2994_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X62 a_1686_4337# B04_OTA_0.Vin+ a_2584_2555# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
X63 a_n9234_n2# a_n8754_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X64 GND GND GND ppolyf_u_1k r_width=2u r_length=30u
X65 VDD VDD VDD VDD pfet_03v3 ad=1.1p pd=5.88u as=0 ps=0 w=2.5u l=4u
X66 GND a_1974_4337# a_1974_4669# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X67 a_n8274_n2# a_n7794_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X68 GND a_1974_4337# a_2872_2967# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X69 a_2872_2555# B04_OTA_0.Vbias2 a_2584_2555# GND nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=1u
X70 a_1686_4337# B04_OTA_0.Vin+ a_2584_2555# VDD pfet_03v3 ad=0.22p pd=1.88u as=0.13p ps=1.02u w=0.5u l=1u
X71 GND GND GND GND nfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=4u
X72 a_1974_4669# B04_OTA_0.Vin+ a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.22p ps=1.88u w=0.5u l=1u
X73 VDD a_6034_5405# a_6996_4337# VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X74 a_n7794_6382# a_n8274_260# GND ppolyf_u_1k r_width=2u r_length=30u
X75 a_3334_4669# B04_OTA_0.Vbias1 GND GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X76 GND GND GND GND nfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=4u
X77 a_6034_5405# B04_OTA_0.Vbias3 a_6996_4337# VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X78 VDD VDD VDD VDD pfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=1u
X79 a_1974_4669# B04_OTA_0.Vbias1 GND GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X80 B04_OTA_0.Vbias1 B04_OTA_0.Vbias2 a_3430_n2670# GND nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=4u
X81 GND GND GND ppolyf_u_1k r_width=2u r_length=30u
X82 a_1974_4669# B04_OTA_0.Vin+ a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
X83 a_n2034_6382# VDD GND ppolyf_u_1k r_width=2u r_length=30u
X84 a_2872_2967# B04_OTA_0.Vbias2 a_1974_4337# GND nfet_03v3 ad=0.44p pd=2.88u as=0.44p ps=2.88u w=1u l=1u
X85 B04_OTA_0.Vbias0 B04_OTA_0.Vbias3 a_6630_n1720# VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=4u
X86 VDD VDD VDD VDD pfet_03v3 ad=1.1p pd=5.88u as=0 ps=0 w=2.5u l=4u
X87 GND GND GND GND nfet_03v3 ad=0.44p pd=2.88u as=0 ps=0 w=1u l=1u
X88 a_n10674_6382# a_n10194_260# GND ppolyf_u_1k r_width=2u r_length=30u
X89 a_n2514_n2# a_n2034_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X90 a_n10674_6382# B04_OTA_0.Vin+ GND ppolyf_u_1k r_width=2u r_length=30u
X91 a_6034_5405# B04_OTA_0.Vbias2 a_1974_4669# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X92 a_1974_4337# B04_OTA_0.Vin- a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.22p ps=1.88u w=0.5u l=1u
X93 a_n4914_6382# a_n4434_260# GND ppolyf_u_1k r_width=2u r_length=30u
X94 B04_OTA_0.Vbias0 VDD B04_OTA_0.Vbias3 GND nfet_03v3 ad=4.4p pd=20.88u as=4.4p ps=20.88u w=10u l=4u
X95 a_n2514_n2# a_n2994_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X96 a_6996_4337# B04_OTA_0.Vbias3 a_6034_5405# VDD pfet_03v3 ad=1.1p pd=5.88u as=1.1p ps=5.88u w=2.5u l=4u
X97 a_n4914_6382# a_n5394_260# GND ppolyf_u_1k r_width=2u r_length=30u
X98 GND GND GND ppolyf_u_1k r_width=2u r_length=30u
X99 a_3334_4669# B04_OTA_0.Vin- a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
X100 GND a_n2034_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X101 GND GND GND GND nfet_03v3 ad=0.22p pd=1.88u as=0 ps=0 w=0.5u l=4u
X102 a_n7314_n2# a_n7794_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X103 GND GND GND GND nfet_03v3 ad=0.44p pd=2.88u as=0 ps=0 w=1u l=1u
X104 a_n7794_6382# a_n7314_260# GND ppolyf_u_1k r_width=2u r_length=30u
X105 a_1974_4337# B04_OTA_0.Vin- a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
X106 a_n6354_n2# a_n6834_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X107 a_1974_4669# B04_OTA_0.Vbias2 a_6034_5405# GND nfet_03v3 ad=0.22p pd=1.88u as=0.22p ps=1.88u w=0.5u l=4u
X108 a_n7314_n2# a_n6834_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X109 a_1686_4337# B04_OTA_0.Vin+ a_1974_4669# VDD pfet_03v3 ad=0.22p pd=1.88u as=0.13p ps=1.02u w=0.5u l=1u
X110 a_n5394_n2# a_n5874_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X111 B04_OTA_0.Vbias1 GND B04_OTA_0.Vbias2 VDD pfet_03v3 ad=2.2p pd=10.88u as=2.2p ps=10.88u w=5u l=4u
X112 a_n6354_260# a_n5874_n6124# GND ppolyf_u_1k r_width=2u r_length=30u
X113 VDD VDD VDD VDD pfet_03v3 ad=1.1p pd=5.88u as=0 ps=0 w=2.5u l=4u
X114 a_n3954_6382# a_n3474_260# GND ppolyf_u_1k r_width=2u r_length=30u
X115 a_2584_2555# B04_OTA_0.Vin+ a_1686_4337# VDD pfet_03v3 ad=0.13p pd=1.02u as=0.13p ps=1.02u w=0.5u l=1u
C0 VDD a_6630_n1720# 1.55734f
C1 a_2872_2555# a_3334_4669# 1.17854f
C2 VDD B04_OTA_0.Vbias3 9.90638f
C3 VDD B04_OTA_0.Vin- 3.46388f
C4 a_1974_4669# a_3334_4669# 1.58984f
C5 a_6034_5405# VDD 5.49686f
C6 a_2872_2555# a_2584_2555# 2.31595f
C7 a_n6354_260# a_n6354_n2# 1.08375f
C8 B04_OTA_0.Vbias0 B04_OTA_0.Vbias3 1.82312f
C9 a_5946_4337# a_6034_5405# 1.18875f
C10 a_1686_4337# VDD 1.25156f
C11 a_6996_4337# a_6034_5405# 1.01293f
C12 a_5946_4337# VDD 2.49085f
C13 B04_OTA_0.Vbias1 a_3334_4669# 1.04895f
C14 VDD B04_OTA_bias_ratio_5_0.VbiasP 4.52766f
C15 B04_OTA_0.Vbias0 VDD 10.2159f
C16 VDD a_3334_4669# 1.02108f
C17 B04_OTA_0.Vin+ VDD 3.78297f
C18 a_1974_4337# a_2872_2967# 1.08849f
C19 B04_OTA_0.Vbias2 VDD 4.55195f
C20 a_1974_4669# a_1974_4337# 1.5632f
C21 a_2584_2555# a_3334_4669# 1.93892f
C22 B04_OTA_0.Vbias3 B04_OTA_0.Vin- 1.2979f
C23 B04_OTA_0.Vbias2 B04_OTA_bias_ratio_5_0.VbiasP 1.51197f
C24 VbiasN B04_OTA_0.Vbias3 4.72647f
C25 VbiasN GND 6.15198f
C26 VDD GND 0.14056p
C27 B04_OTA_0.Vbias1 GND 9.89929f
C28 a_2872_2555# GND 1.58276f
C29 a_2872_2967# GND 1.2605f
C30 B04_OTA_0.Vbias2 GND 17.0217f
C31 a_2584_2555# GND 6.75113f
C32 a_1974_4337# GND 6.14965f
C33 a_3334_4669# GND 3.5823f
C34 a_1974_4669# GND 3.19669f
C35 B04_OTA_0.Vbias3 GND 12.542f
C36 B04_OTA_0.Vin- GND 1.28395f
C37 B04_OTA_0.Vbias0 GND 4.80776f
C38 a_n2034_n6124# GND 1.0595f
C39 a_n2994_n6124# GND 1.00238f
C40 a_n3954_n6124# GND 1.00221f
C41 a_n4914_n6124# GND 1.00221f
C42 a_n5874_n6124# GND 1.00221f
C43 a_n6834_n6124# GND 1.00221f
C44 a_n7794_n6124# GND 1.00221f
C45 a_n8754_n6124# GND 1.00221f
C46 a_n9714_n6124# GND 1.00239f
C47 a_n10674_n6124# GND 1.06001f
C48 a_n2034_6382# GND 1.04871f
C49 B04_OTA_0.Vin+ GND 6.59018f
C50 a_n10674_6382# GND 1.04923f
.ends

